US07825128B2
(RS)—N-(3-chloro-phenylcarbamoyl)-S-(4-{[4-{[(R)-2-hydroxy-1-methylethyl]amino}-5-(2-thienyl)pyrimidine-2-yl]amino}phenyl)-S-methylsulfoximide
In the reaction of (R)-2-(2-chloro-5-(2-thienyl)pyrimidine-4-ylamino)propan-1-ol (115.5 mg, 0.43 mmol) with (RS)—S-(4-aminophenyl)-N-(3-chloro-phenylcarbamoyl)-S-methylsulphoximide (126 mg, 0.39 mmol) according to procedure 5c, the desired product is obtained in 26% yield (56 mg) after chromatographic purification (silica gel, dichloromethane/ethanol (0%-20% ethanol)).

reactant | (R)-2-(2-chloro-5-(2-thienyl)pyrimidine-4-ylamino)propan-1-ol | 0.43 mmol, 115.5 mg | ClC1=NC=C(C(=N1)N[C@@H](CO)C)C=1SC=CC1 | C11H12ClN3OS
reactant | (RS)—S-(4-aminophenyl)-N-(3-chloro-phenylcarbamoyl)-S-methylsulphoximide | 0.39 mmol, 126 mg | NC1=CC=C(C=C1)S(=O)(=NC(NC1=CC(=CC=C1)Cl)=O)C | C14H14ClN3O2S
product | (RS)—N-(3-chloro-phenylcarbamoyl)-S-(4-{[4-{[(R)-2-hydroxy-1-methylethyl]amino}-5-(2-thienyl)pyrimidine-2-yl]amino}phenyl)-S-methylsulfoximide | 26% yield | ClC=1C=C(C=CC1)NC(=O)N=S(=O)(C)C1=CC=C(C=C1)NC1=NC=C(C(=N1)N[C@@H](CO)C)C=1SC=CC1 | C25H25ClN6O3S2
